US05063228
3,4-Dihydro-2-methyl-4-[2-(4-morpholinyl)ethyl]pyrimido[1.6-a]benzimidazol-1(2H)-one.
To 20 mL of morpholine was added 3.5 g (0.0133 mol) of 4-(2-chloroethyl)-3,4-dihydro-2-methylpyrimido[1,6-a]benzimidazol-1(2H)-one. The reaction mixture was heated in 60° C. for 24 hrs. The excess morpholine was removed by rotary evaporation and finally by high vacuum (0.5 mm Hg ~60° C.). The residue was dissolved in ~100 mL of CH2Cl2 washed with 3×50 ml of 1N NaOH, dried over Na2SO4, filtered, and concentrated by rotary evaporation. The residue was crystallized from isopropyl ether to give 2.7 g (65%) of analytically pure crystals, mp 111°-12° C.

reactant | 4-(2-chloroethyl)-3,4-dihydro-2-methylpyrimido[1,6-a]benzimidazol-1(2H)-one | 0.0133 mol, 3.5 g | ClCCC1CN(C(N2C1=NC1=C2C=CC=C1)=O)C | C13H14ClN3O
reactant | morpholine | 20 mL | N1CCOCC1 | C4H9NO
product | 3,4-Dihydro-2-methyl-4-[2-(4-morpholinyl)ethyl]pyrimido[1.6-a]benzimidazol-1(2H)-one | CN1C(N2C(=NC3=C2C=CC=C3)C(C1)CCN1CCOCC1)=O | C17H22N4O2
